US06951884B2
a) 3-Fluoro-4-(4-trifluoromethyl-benzyloxy)-benzoic acid 4-trifluoromethyl-benzyl ester
As described for example 18a, 3-fluoro-4-hydroxybenzoic acid (2.5 g, 16 mmol) [using 4-(trifluoromethyl)-benzyl bromide instead of 4-fluorobenzyl bromide] was converted to the title compound (5.3 g, 69%) which was obtained as a white solid. MS: m/e=472.1 (M+).

reactant | 3-fluoro-4-hydroxybenzoic acid | 16 mmol, 2.5 g | FC=1C=C(C(=O)O)C=CC1O | C7H5FO3
reactant | 4-(trifluoromethyl)-benzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
product | 3-Fluoro-4-(4-trifluoromethyl-benzyloxy)-benzoic acid 4-trifluoromethyl-benzyl ester | 5.3 g, 69% | FC(C1=CC=C(COC(C2=CC(=C(C=C2)OCC2=CC=C(C=C2)C(F)(F)F)F)=O)C=C1)(F)F | C23H15F7O3
